US07935815B2
Synthesis of 5-(tert-butyldiphenylsilanyloxy-2-(4-fluorophenyl)-3-methylpentanoic acid
n-Butyl lithium (4.89 mL; 2.66 M solution in hexane) was added dropwise to a solution of 4-fluorophenylacetic acid (1 g) in THF (30 mL) at −78° C., and the reaction solution was stirred for 20 minutes. The reaction solution was heated to 0° C. and stirred for 30 minutes. Then, a solution of 3-(tert-butyldiphenylsilanyloxy)-1-methylpropyl toluene-4-sulfonate (3.2 g) in THF (10 mL) was added dropwise to the reaction solution. The reaction solution was heated to room temperature and stirred at the same temperature for 12 hours. Then, 1 N hydrochloric acid and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 986 mg of the title compound. The property values of the compound are as follows.

reactant | n-Butyl lithium | 2.66 M, 4.89 mL | C(CCC)[Li]
reactant | 4-fluorophenylacetic acid | 1 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 3-(tert-butyldiphenylsilanyloxy)-1-methylpropyl toluene-4-sulfonate | 3.2 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)C | C27H34O4SSi
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyldiphenylsilanyloxy-2-(4-fluorophenyl)-3-methylpentanoic acid | 986 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C(=O)O)(C(CC)C)C1=CC=C(C=C1)F | C28H33FO3Si
